US04384041
D-Met-OH (1.4 g, 10 mM) and sodium bicarbonate (1.68 g, 20 mM) were added to a mixture of water (15 ml) and DMF (5 ml). Boc-Leu-OSu (3.28 g, 10 mM) in DMF (30 ml) was added thereto and the mixture was stirred overnight at room temperature. After cooling to 0° C., the pH was adjusted to pH 6.5 with 1 N-HCl and the solution was concentrated in vacuo. The residue was dissolved in ethyl acetate-1 N-HCl (50 ml-50 ml). The ethyl acetate layer was washed with water, dried by adding sodium sulfate and ethyl acetate was distilled off. The residue was charged on a column of silica gel (100 g) and eluted with benzene-ethyl acetate (1:1) to obtain Boc-Leu-D-Met-OH (1.6 g).

reactant | D-Met-OH | 10 mM, 1.4 g | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | sodium bicarbonate | 20 mM, 1.68 g | C([O-])(O)=O.[Na+]
reactant | Boc-Leu-OSu | 10 mM, 3.28 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
reactant | HCl | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | Boc-Leu-D-Met-OH | 1.6 g | N([C@@H](CC(C)C)C(=O)N[C@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C16H30N2O5S
